US08431575B2
A solution of trans-{-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-carbamic acid tert-butyl ester (1 mmol) in anhydrous THF at 0° C. may be treated with LAH in THF (1 M, 2 mL). The reaction may be allowed to come to room temperature. The reaction may be quenched with water and extracted with ethyl acetate. The product may be isolated by flash chromatography using ethyl acetate/hexanes mixtures to give trans-N-{-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-formamide.

reactant | trans-{-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-carbamic acid tert-butyl ester | 1 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)=O | C31H45N3O4
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 M, 2 mL | C1CCOC1 | C4H8O
product | trans-N-{-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-formamide | C(CCC)C1=C(C=C(N=N1)O[C@@H]1CC[C@H](CC1)NC=O)C1=CC=C(C=C1)OC1CCCCC1 | C27H37N3O3
